US05840732
Synthesis of 3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]oxazolidine-2,4-dione
Using 6.63 g (25 mnmol) of 3-[4-(2-aminopyridin-3-yloxy)butyl]oxazolidine-2,4-dione and 25 ml of a 40% chloroacetaldehyde solution, the same procedure as in Reference Example 18 was followed, to yield 6.48 g (89.5%, yellow oily substance) of the desired product.

reactant | 3-[4-(2-aminopyridin-3-yloxy)butyl]oxazolidine-2,4-dione | 6.63 g | NC1=NC=CC=C1OCCCCN1C(OCC1=O)=O | C12H15N3O4
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
product | 3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]oxazolidine-2,4-dione | N=1C=CN2C1C(=CC=C2)OCCCCN2C(OCC2=O)=O | C14H15N3O4
